US04010177
In the manner given in Preparation 10, 7-fluoro-5(o-fluorophenyl)-3H-1,4-benzodiazepin-2-yl hydrazine is reacted with chloroacetyl chloride and after 1.5 hours with sodium acetate. The mixture is then refluxed to give 8-fluoro-1-(chloromethyl)-6-(o-fluorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine. Preparation 13 8-Chloro-1-(chloromethyl)-6-(2,6-difluorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine

reactant | 7-fluoro-5(o-fluorophenyl)-3H-1,4-benzodiazepin-2-yl hydrazine | FC=1C=CC2=C(C(=NCC(=N2)NN)C2=C(C=CC=C2)F)C1 | C15H12F2N4
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
product | 8-fluoro-1-(chloromethyl)-6-(o-fluorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | FC=1C=CC2=C(C(=NCC=3N2C(=NN3)CCl)C3=C(C=CC=C3)F)C1 | C17H11ClF2N4
